### ISSUE TITLE
Ordered rewriting for AC simplification fails with type classes

### ISSUE THREAD

**Issue by gebner** [leanprover/lean4#972]
The following file works with the nightly from January 22 but not with the nightly from January 23 (2022), presumably due to 7ada79bf2ef813424c7a4d5348af379f99395d0a.

```lean
class Semigroup (M : Type u) extends Mul M where
  mul_assoc (a b c : M) : (a * b) * c = a * (b * c)
export Semigroup (mul_assoc)

class CommSemigroup (M : Type u) extends Semigroup M where
  mul_comm (a b : M) : a * b = b * a
export CommSemigroup (mul_comm)

class Monoid (M : Type u) extends Semigroup M, OfNat M 1 where
  mul_one (m : M) : m * 1 = m
  one_mul (m : M) : 1 * m = m

class CommMonoid (M : Type u) extends Monoid M, CommSemigroup M

theorem mul_left_comm {M} [CommSemigroup M] (a b c : M) : a * (b * c) = b * (a * c) := by
  rw [← mul_assoc, mul_comm a b, mul_assoc]

example {M} [CommMonoid M] (a b c d : M) : a * (b * (c * d)) = (a * c) * (b * d) := by
  simp only [mul_left_comm, mul_comm, mul_assoc]
```

With the nightly from January 23 it fails with:
```
error: unsolved goals
M : Type ?u.1887
inst✝ : CommMonoid M
a b c d : M
⊢ a * (b * (c * d)) = a * (c * (b * d))
```

The type class hierarchy is necessary to trigger the bug.  The following example works in both nightlies:
```lean
example {M} [CommSemigroup M] (a b c d : M) : a * (b * (c * d)) = (a * c) * (b * d) := by
  simp only [mul_left_comm, mul_comm, mul_assoc]
```

**Comment by leodemoura** [comment]
I believe the issue is triggered because the Lean 4 simp is not canonicalizing TC instances. Then, some of the AC (ordered) rewrites are rejected. Example: the rewrite `c*(b*d) ==> b*(c*d)` is rejected because the terms contain different instances.
```lean
@HMul.hMul M M M
  (@instHMul M (@Semigroup.toMul M (@Monoid.toSemigroup M (@CommMonoid.toMonoid M inst✝)))) c
  (@HMul.hMul M M M (@instHMul M (@Semigroup.toMul M (@Monoid.toSemigroup M (@CommMonoid.toMonoid M inst✝)))) b d) ==> 
@HMul.hMul M M M
  (@instHMul M (@Semigroup.toMul M (@CommSemigroup.toSemigroup M (@CommMonoid.toCommSemigroup M inst✝)))) b
  (@HMul.hMul M M M
    (@instHMul M (@Semigroup.toMul M (@CommSemigroup.toSemigroup M (@CommMonoid.toCommSemigroup M inst✝)))) c d)
```
I will add TC instance canonicalization to `simp`.

**Comment by leodemoura** [comment]
@gebner I did not use TC instance canonicalization as we did in Lean 3. AFAICT, the solution used in Lean 3 does not solve the problem above. I did not investigate why similar examples work in Lean 3, but I believe it is related to how we encode the structures and the theorems used in the example.
To fix the problem, I changed the variable ordering used by `simp`. It now ignores instance implicit arguments.
